US04668697
5-(2-Hydroxyethyl-2-sulfamoylbenzo[b]thiophene
A solution of 5-(2-acetoxyethyl)-2-sulfamoyl benzo[b]thiophene (1.8 g, 0.006 mol), ethanol (50 ml) and 10% NaOH (50 ml) was heated at reflux. After 4.5 h, the mixture was poured into 3N HCl (150 ml) and extracted with ethyl acetate (3X). The organic extracts were washed with saturated Na2CO3, dried, filtered and concentrated to dryness to yield 1.5 g (97%) of product, m.p. 162°-164° C.

reactant | 5-(2-acetoxyethyl)-2-sulfamoyl benzo[b]thiophene | 0.006 mol, 1.8 g | C(C)(=O)OCCC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C12H13NO4S2
reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | HCl | 3N, 150 ml | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Hydroxyethyl-2-sulfamoylbenzo[b]thiophene | 1.5 g, 97% | OCCC=1C2=C(SC1S(N)(=O)=O)C=CC=C2 | C10H11NO3S2
